Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
___

 
Major Surgical or Invasive Procedure:
diagnostic conventional angiography
 
History of Present Illness:
___ is a ___ year old male who presents with a headache and
was found to have an intraparenchymal hemorrhage. He says that
for the past ___ months he has been having headaches that he 
says
are characterized by a sharp stabbing pain underneath the left
eye. He says that this pain will last just a few seconds but
occur several times per day. He denies conjunctival injection 
and
congestion with these episodes. He had been taking some 
ibuprofen
that helps with his headaches. He says that his vision was 
blurry
when he woke up this morning. He does not think that it was 
worse
in either eye, and he does not know if he covered one eye 
whether
it would make the blurriness go away. He works at ___, so he
went to work and had his blood pressure checked and it was
elevated. He thinks that it was 165/110 but is not sure. He went
to urgent care, where they performed a CT scan that demonstrated
findings concerning for a small IPH. He was transferred to 
___.

He has had headaches for the past few months as described above.
In addition to the vision complaints, he feels that his vision
seems to have been slowly worsening over the past few months. 
For
example, he now cannot read without his reading glass. 
Otherwise,
he denies diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech. Denies focal weakness,
numbness, parasthesiae. On general review of systems, he says
that he has been very tired for the past three days, but he
denies any other symptoms.

 
Past Medical History:
Hypertension - He says that his blood pressure was elevated at
his primary care doctor's last year but he does not take any
medications for high blood pressure.
Depression

 
Social History:
___
Family History:
No known neurological problems.

 
Physical Exam:
General: Awake, cooperative, NAD.  
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple
Pulmonary: No increased WOB
Cardiac: RRR
Abdomen: soft, non-distended
Skin: no rashes or lesions noted.  
  
Neurologic:  
-Mental Status: Alert, oriented to current place and time. Able 
to relate history without difficulty. Attentive, able to name 
days of the week backward without difficulty. Language is fluent 
with intact repetition and comprehension. Normal prosody. One 
paraphasic error - called the hammock a table. Naming intact to 
both high and low frequency objects. Able to read without 
difficulty. Speech was not dysarthric. Able to follow both 
midline and appendicular commands. There was no evidence of 
neglect.  
  
-Cranial Nerves:  
II: PERRL 3 to 2mm and brisk. VFF to confrontation. visual 
acuity ___ bilaterally (with glass on) 
III, IV, VI: EOMI without nystagmus. Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally. 
IX, X: Palate elevates symmetrically. 
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline with normal strength  
  
-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.  
No adventitious movements, such as tremor, noted. No asterixis 
noted.  
 Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc
L 5    ___   ___  5   5    5  5     5   
R 5    ___   ___  5   5    5  5     5
  
-Sensory: No deficits to light touch

-DTRs:  
 Bi Tri ___ Pat Ach  
L 2  2    2    2   1  
R 2  2    2    2   1  
Plantar response was flexor bilaterally.  
  
-Coordination: No intention tremor. No dysmetria on FNF or HKS 
bilaterally.  
  
-Gait: deferred

 
Pertinent Results:
ADMISSION LABS:
___ 06:30PM   GLUCOSE-85 UREA N-12 CREAT-1.0 SODIUM-137 
POTASSIUM-6.1* CHLORIDE-101 TOTAL CO2-23 ANION GAP-19
___ 06:30PM   ALT(SGPT)-76* AST(SGOT)-62* ALK PHOS-59 TOT 
BILI-0.5
___ 06:30PM   ALBUMIN-4.8
___ 06:30PM   K+-4.6
___ 06:30PM   WBC-5.2 RBC-5.39 HGB-15.4 HCT-44.5 MCV-83 
MCH-28.6 MCHC-34.6 RDW-13.0 RDWSD-38.3
___ 06:30PM   NEUTS-64.4 ___ MONOS-7.3 EOS-1.3 
BASOS-0.6 IM ___ AbsNeut-3.34 AbsLymp-1.36 AbsMono-0.38 
AbsEos-0.07 AbsBaso-0.03
___ 06:30PM   PLT COUNT-246
___ 06:30PM   ___ PTT-30.5 ___

******************

IMAGING:
MRI/MRV BRAIN ___: 
IMPRESSION:   
1. Approximately 1 cm lesion in the inferior right frontal lobe 
at the gray/white matter junction, corresponding to the 
hyperdensity seen on the preceding CT, which is compatible with 
a cavernous malformation with chronic blood products and 
mineralization.  There may be a subtle developmental venous 
anomaly medial to the lesion.  There is no surrounding edema to 
clearly indicate an acute hemorrhage, and no surrounding 
diffusion abnormality to suggest an underlying infarct. 
2. No evidence for additional foci of blood products or contrast 
enhancement. 
3. Normal brain MRV. 

Cerebral angiogram ___:
FINDINGS:    
Right internal carotid artery:  The right anterior intracranial 
circulation is unremarkable.  There is no evidence of vascular 
malformation. 
Left common carotid artery:  The left anterior intracranial 
circulation is 
unremarkable.  There is no evidence of vascular malformation. 
Left vertebral artery:  The post intracranial circulation is 
unremarkable.  There is no evidence of vascular malformation. 
IMPRESSION:    
Unremarkable three-vessel cerebral angiogram 

 
Brief Hospital Course:
___ is a ___ year old man with a history of 
headaches, who presented with blurry vision and HA and was found 
to have a small right frontal lobar IPH.

# Left Frontal Intraparenchymal Hemorrhage: He was hypertensive 
on arrival,  required a nicardipine drip initially, and was 
admitted to the ICU. He was started on amlodipine and BP 
improved to goal SBP<140. MRI/MRV did not show an underlying
mass, infarct, VST, nor amyloid, though the imaging 
characteristics on MRI were suspicious for a cavernoma. 
Hypertension was also possible as the etiology of his 
hemorrhage, but this would be an atypical location. He went for 
diagnostic conventional angiography to assess for underlying 
vascular malformation, which was negative. Etiology felt likely 
secondary to rupture of possible cavernoma in setting of acute 
hypertension. He was discharged with neurology follow up and 
instructions to follow up with neurosurgery to continue to 
monitor the cavernoma.

# Hypertensive Urgency: He presented with elevated BP and blurry 
vision. The blurry vision would not be explained by the IPH and 
it resolved by the morning after presentation. He was started on 
amlodipine for hypertension, which was uptitrated to 10mg daily.

Transitional issues:
[ ] Consider repeat imaging in ___ months to monitor for 
resolution of bleed and stability of possible cavernoma
[ ] Continue to monitor blood pressure and titrate 
antihypertensive medications for target SBP <140
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zolpidem Tartrate 12.5 mg PO QHS:PRN insomnia 
2. Ibuprofen 400 mg PO Q8H:PRN headache 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5
2. Zolpidem Tartrate 12.5 mg PO QHS:PRN insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right Frontal Intraparenchymal Hemorrhage
Possible cavernoma
Hypertensive encephalopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with a small bleed in your 
brain. We think the hemorrhage was caused by a possible 
cavernoma, which is a small cluster of blood vessels that form 
together, that bled in the setting of high blood pressure. We 
started you on a blood pressure medication called amlodipine, 
which you should take daily to prevent this from occurring 
again. You should avoid aspirin or NSAIDs, and take 
acetaminophen (or Tylenol) for your headache.

For post-angiography care, please limit strenuous activity for 
the next few days, including lifting heavy objects, bending 
over, climbing up and down stairs excessively, showering, 
straining, and driving. You may experience mild bleeding at the 
groin site, for which you should hold pressure with some gauze 
for a few minutes.

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___